US09233104B2
To a solution of concentrated sulfuric acid (2 mL) was slowly added 2-aminobenzoic acid (CXXIV) (1.0 g, 7.24 mmol). A mixture of concentrated sulfuric acid (1.5 mL) and fuming nitric acid (1.5 mL) was then slowly added and the reaction was stirred at room temperature overnight. The reaction mixture was poured into crushed ice and treated with aqueous NH4OH until pH 3.0. The yellow-orange solid was washed with cold water and dried to produce 2-(nitroamino)benzoic acid (CXXV) as a yellow solid (1.0 g, 5.46 mmol, 75.4% yield). The crude product was used for the next step without further purification. ESIMS found for C7H6N2O4 m/z 183.9 (M+H).

reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-aminobenzoic acid | 7.24 mmol, 1.0 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 1.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | NH4OH | [NH4+].[OH-]
product | 2-(nitroamino)benzoic acid | 5.46 mmol, 1.0 g, 75.4% yield | [N+](=O)([O-])NC1=C(C(=O)O)C=CC=C1 | C7H6N2O4
